US09371320B2
B) 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzoic acid
To a mixture of methyl 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzoate (90 mg) in a mixed solvent of methanol (1 mL) and THF (1 mL) was added 8N aqueous sodium hydroxide solution (0.288 mL), and the mixture was stirred at 80° C. for 4 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The aqueous layer was neutralized with 1N hydrochloric acid at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (80 mg).

reactant | methyl 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzoate | 90 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=CN2C2CCCC2)NC=2C=C(C(=O)OC)C=CC2 | C22H22N4O3
reactant | methanol | 1 mL | CO | CH4O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 8N, 0.288 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzoic acid | 80 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=CN2C2CCCC2)NC=2C=C(C(=O)O)C=CC2 | C21H20N4O3
